US07041667B1
1-Benzyl-N-methyl-4-piperidinamine Hydrochloride
Benzyl chloroformate (4.44 g, 26.0 mmol) in ether (10 ml) was added dropwise to an ether (50 ml) solution of N-benzyl-4-piperidinamine (4.50 g, 23.6 mmol) and aqueous sodium hydrogen carbonate (50 ml) at 0° C. After addition was complete the reaction was warmed to room temperature and the layers separated, the organic layer was washed with brine, dried (MgSO4), filtered and the solvent removed under reduced pressure. The residue was dissolved in tetrahydrofuran (80 ml) and lithium aluminium hydride (2.69 g, 70.8 mmol) was added portionwise and the reaction heated under reflux for 12 hours. Upon cooling to 0° C. water (4 ml) was cautiously added followed by 2N sodium hydroxide (4 ml) and the precipitate removed by filtration. The solvent was removed under reduced pressure to yield a yellow oil which was dissolved in ether (100 ml) and hydrogen chloride gas was bubbled through to give a white precipitate. Filtration furnished the title compound as a white solid, 4.30 g.

reactant | Benzyl chloroformate | 26.0 mmol, 4.44 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-benzyl-4-piperidinamine | 23.6 mmol, 4.50 g | C(C1=CC=CC=C1)NC1CCNCC1 | C12H18N2
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | lithium aluminium hydride | 70.8 mmol, 2.69 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 4 ml | O | H2O
product | 1-Benzyl-N-methyl-4-piperidinamine Hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC | InChI=1S/C13H20N2.ClH/c1-14-13-7-9-15(10-8-13)11-12-5-3-2-4-6-12;/h2-6,13-14H,7-11H2,1H3;1H
